US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine
Beginning with 1.27 gm (5.45 mMol) 4,6-difluoro-7-bromobenzofuran and 1.16 gm (5.72 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 1.51 gm (78%) of the desired compound were prepared essentially as described in EXAMPLE 19.

reactant | 4,6-difluoro-7-bromobenzofuran | 5.45 mMol, 1.27 gm | FC1=CC(=C(C2=C1C=CO2)Br)F | C8H3BrF2O
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 5.72 mMol, 1.16 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine | 1.51 gm, 78% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=C(C=2C=COC21)F)F)O)C | C21H21F2NO2
